US07834043B2
tert-butyl(2S,3S)-2-[(2-ethoxy-2-oxoethyl)amino]-3-methylpentanoate
A solution of L-iso-leucine tert-butyl ester hydrochloride (5 g, 22.34 mmol) in DMF (30 mL) was treated with triethylamine (3.1 mL, 22.34 mmol), stirred for 1 hour at 25° C., filtered to remove solid salts, and the filtrate was treated with triethylamine (9.3 mL, 67.0 mmol) and ethyl bromoacetate (9.9 mL, 67.0 mmol), and the reaction was stirred for 3 hours at 25° C. The reaction mixture was partitioned between ethyl acetate and water, and the organic phase was washed with brine and dried over MgSO4, filtered and concentrated to give the title compound (5.7 g, 93% yield), which was used without further purification.

reactant | L-iso-leucine tert-butyl ester hydrochloride | 22.34 mmol, 5 g | Cl.C(C)(C)(C)OC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 22.34 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 67.0 mmol, 9.3 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 67.0 mmol, 9.9 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-butyl(2S,3S)-2-[(2-ethoxy-2-oxoethyl)amino]-3-methylpentanoate | 5.7 g, 93% yield | C(C)OC(CN[C@H](C(=O)OC(C)(C)C)[C@H](CC)C)=O | C14H27NO4
